US07538121B2
N-(4,4-Dimethyl-1,2,3,4-tetrahydroisoquinolin-7-yl)-4-(3-trifluoromethyl-2-pyridyl)-piperazine-1-carboxamide
A suspension of N-(4,4-dimethyl-1-trifluoroacetyl-1,2,3,4-tetrahydroisoquinol-7-yl)-4-(3-trifluoromethyl-2-pyridyl)-piperazine-1-carboxamide (30 mg, 0.057 mmol) and potassium carbonate (48 mg, 0.348 mmol) in methanol (4 ml) and water (4 ml) was heated at 50° C. for 6 h. After this period, the solvents were evaporated in vacuo and the residue partitioned between DCM (30 ml) and water (30 ml). The aqueous layer was re-extracted with DCM (2×30 ml) and then the combined organic layers dried (Na2SO4) and the solvents evaporated in vacuo to give the title compound as a white solid. 1H NMR (400 MHz, DMSO) δ (ppm): 8.45 (dd, 1H), 7.89 (dd, 1H), 7.22 (d, 1H), 7.10 (dd, 1H), 7.00-7.05 (m, 2H), 6.55 (s, 1H), 3.95 (s, 2H), 3.60-3.65 (m, 4H), 3.30-3.32 (m, 4H), 2.82 (s, 2H), 2.00 (br-s, 1H), 1.23 (s, 6H). MS (ES): MH+ 434.

reactant | N-(4,4-dimethyl-1-trifluoroacetyl-1,2,3,4-tetrahydroisoquinol-7-yl)-4-(3-trifluoromethyl-2-pyridyl)-piperazine-1-carboxamide | 0.057 mmol, 30 mg | CC1(CNC(C2=CC(=CC=C12)NC(=O)N1CCN(CC1)C1=NC=CC=C1C(F)(F)F)C(C(F)(F)F)=O)C | C24H25F6N5O2
reactant | potassium carbonate | 0.348 mmol, 48 mg | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 4 ml | CO | CH4O
solvent | water | 4 ml | O | H2O
product | N-(4,4-Dimethyl-1,2,3,4-tetrahydroisoquinolin-7-yl)-4-(3-trifluoromethyl-2-pyridyl)-piperazine-1-carboxamide | CC1(CNCC2=CC(=CC=C12)NC(=O)N1CCN(CC1)C1=NC=CC=C1C(F)(F)F)C | C22H26F3N5O
